Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with Crohn's disease c/b splenic flexure stricture s/p L 
colectomy ___ - ___ c/b colon perforation s/p 
completion colectomy, ileosigmoid anastomosis (___) c/b 
anstomotic leak s/ple abdominal washouts and VACs (___) 
c/b EC fistula s/p EC fistula ta multipkedown and revision of 
ileorectal anastomosis to J pouch (___) and ileostomy s/p 
ileostomy takedown (___). She presents today with lower 
pelvic pain and fevers x 1 week. She reports that 1 week ago, 
she started having lower abdominal/pelvic pain. 2 days ago she 
started having low grade fevers, which prompted her to seek 
medical attention. She denies nausea/vomiting. She is tolerating 
PO. She has a non-bloody bowel movement every hour or two, which 
has been constant since her ileostomy takedown with no changes 
over the past week. She is not on any medication for her Crohn's 
disease. She denies any flatus through her vagina or urethra.

Of note, she had a routine MRI on ___ which showed overall 
improvement from prior with tethered loops of small bowel within 
the pelvis, but with no evidence of focal abscess at the time. 
 
Past Medical History:
Crohn's disease dx at ___ years of age  
Pelvic Fracture ___ with resultant addiction to Rx Narcotics

Past Surgical History:
- ___ - Abdominal washout, placement of V.A.C
- ___ - Abdominal washout, Placement of a VAC.
- ___ - Exploratory laparotomy, drainage of 
intraabdominal abscess, lysis of adhesions and open abdomen with 
placement of a VAC.
- ___ Completion colectomy, ileosigmoid anastomosis (Dr. 
___
- ___ Laparoscopic assisted left colectomy (Dr. ___
 
Social History:
___
Family History:
No family history of IBD 

 
Physical Exam:
General: no acute distress. 
Neuro: alert and oriented to person, place and date. 
psych: mood is "good."
pulmonary: respirations are unlabored on room air. 
cardiac: normal rate and rhythm. no murmurs, rubs or gallops. 
abdomen: soft, mildly tender over the supra-pubic area. No 
rebound or guarding. 
extremities: warm and well-perfused with no edema.
 
Pertinent Results:
___ 06:45AM BLOOD WBC-9.0 RBC-3.62* Hgb-10.1* Hct-30.9* 
MCV-85 MCH-27.9 MCHC-32.7 RDW-13.4 RDWSD-42.3 Plt ___
___ 03:40AM BLOOD Neuts-82.4* Lymphs-10.3* Monos-5.5 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-13.44* AbsLymp-1.68 
AbsMono-0.90* AbsEos-0.12 AbsBaso-0.06
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-107* UreaN-4* Creat-0.4 Na-143 
K-3.6 Cl-104 HCO3-26 AnGap-13
___ 03:40AM BLOOD ALT-38 AST-22 AlkPhos-136* TotBili-0.6
___ 06:45AM BLOOD Calcium-8.2* Phos-2.4* Mg-2.___RIEF HOSPITAL COURSE TEMPLATE  
 Mrs. ___ presented to our emergency department as a transfer 
from an outside hospital on ___ with abdominal pain in the 
setting of known Crohn's disease. Her WBC count was elevated to 
16.3 and C-reactive protein to 16.9. CT scan at an ___ 
___ demonstrated a fluid collection in the pelvis 
consistent with a mesenteric abscess veruss tubo-ovarian 
abscess. OB/Gyn was consulted who felt that a lack of cervical 
motion tenderness and her imaging was most consistent with an 
intra-mesenteric infection rather than a tubo-ovarian abscess. 
The patient was started on cefepime and metronidazole and 
transitioned to augmentin and metronidazole with plans to 
complete a 10 day course. 
 On ___, the patient was discharged to home. At discharge, 
he/she was tolerating a regular diet, passing flatus, stooling?, 
voiding, and ambulating independently He/She will follow-up in 
the clinic in ___ weeks. This information was communicated to 
the patient directly prior to discharge.  
 Include in Brief Hospital Course for Every Patient and check of 
boxes that apply:  

 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Please take with food. 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
every 12 hours Disp #*20 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
Please take with food 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 8 
hours Disp #*30 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do not drink alcohol or drive on this medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours as needed 
Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
mesenteric abscess secondary to Crohn's disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Mrs. ___ presented to the emergency department at ___ with 
1 week of lower abdominal/pelvic pain and 2 days of low grade 
fevers.  CT scan from ___ demonstrated findings 
consistent with a pelvic abscess secondary to Crohn's disease.  
You were restarted on intravenous antibiotics and transition to 
oral antibiotics for discharge.
 You have tolerated a regular diet, are passing gas and your 
pain is controlled with pain medications by mouth. You may 
return home to finish your recovery.  
 If you are taking narcotic pain medications there is a risk 
that you will have some constipation. Please take an over the 
counter stool softener such as Colace, and if the symptoms do 
not improve call the office.  
 If you have any of the following symptoms please call the 
office for advice ___:  
 fever greater than 101.5  
 increasing abdominal distension  
 increasing abdominal pain  
 nausea/vomiting  
 inability to tolerate food or liquids  
 prolonged loose stool  
 extended constipation  
 inability to urinate  
 Pain  
 It is expected that you will have pain secondary to this 
abscess. You should continue to take 2 Extra Strength Tylenol 
(1000mg) for pain every 8 hours around the clock and you may 
also take Advil (Ibuprofen) 600mg every hours for 7 days. Please 
do not take more than 3000mg of Tylenol in 24 hours or any other 
medications that contain Tylenol such as cold medication. Do not 
drink alcohol while or Tylenol. Please take Advil with food. If 
these medications are not controlling your pain to a point where 
you can ambulate and preform minor tasks, you should take a dose 
of the narcotic pain medication hydromorphone. Please take this 
only if needed for pain. Do not take with any other sedating 
medications or alcohol. Do not drive a car if taking narcotic 
pain medications. You should only drive a car on your own if you 
are off narcotic pain medications and feel as if your reaction 
time is back to normal so you can react appropriately while 
driving.  

We wish you a speedy recovery!
 
Followup Instructions:
___